US05716944
A solution of 3-(4-cyclohexylbenzoyl)propionic acid (10.7 g), acetic acid (100 ml) and perchloric acid (2.3 ml) was hydrogenated in the presence of 5% palladium carbon (50% wet, 3.0g) at room temperature under ordinary pressure. After removal of the catalyst by filtration, the filtrate was concentrated under reduced pressure. After water (100 ml) was added, the residue was extracted with ethyl acetate. The ethyl acetate layer was washed with water and brine, and dried (MgSO4), after which the solvent was evaporated off, to yield 4-(4-cyclohexylphenyl)butyric acid (10.4 g, 100%) as an oil.

reactant | 3-(4-cyclohexylbenzoyl)propionic acid | 10.7 g | C1(CCCCC1)C1=CC=C(C(=O)CCC(=O)O)C=C1 | C16H20O3
reactant | perchloric acid | 2.3 ml | Cl(=O)(=O)(=O)O | ClHO4
catalyst | palladium carbon | 3.0g | [C].[Pd]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 4-(4-cyclohexylphenyl)butyric acid | 10.4 g, 100% | C1(CCCCC1)C1=CC=C(C=C1)CCCC(=O)O | C16H22O2
